US09403773B2
Sodium hydride (55% in oil) (396 mg, 9.1 mmol) was added, while being cooled with ice, to a DMF solution (9 ml) of 2.0 g of 3-[3-(4-fluoro-2-nitrophenoxy)propyl]-1,1-dimethyl urea (7.0 mmol) and the mixture was stirred at room temperature for 5 minutes. Methyl iodide (0.735 ml, 11.8 mmol) was added to the mixture and the resulting mixture was stirred at room temperature for 48 hours. Water was added to the reaction mixture and extraction with ethyl acetate was performed. After being washed with a saturated sodium chloride aqueous solution, the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane:ethyl acetate=9:1→6:1). The purified product was concentrated under reduced pressure to thereby obtain 0.83 g of oily pale yellow 1-[3-(4-fluoro-2-nitrophenoxy)propyl]-1,3,3-trimethylurea (yield: 40%).

reactant | Sodium hydride | 9.1 mmol, 396 mg | [H-].[Na+]
reactant | DMF | 9 ml | CN(C)C=O | C3H7NO
reactant | 3-[3-(4-fluoro-2-nitrophenoxy)propyl]-1,1-dimethyl urea | 7.0 mmol, 2.0 g | FC1=CC(=C(OCCCNC(N(C)C)=O)C=C1)[N+](=O)[O-] | C12H16FN3O4
reactant | Methyl iodide | 11.8 mmol, 0.735 ml | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 1-[3-(4-fluoro-2-nitrophenoxy)propyl]-1,3,3-trimethylurea | 0.83 g, yield: 40% | FC1=CC(=C(OCCCN(C(=O)N(C)C)C)C=C1)[N+](=O)[O-] | C13H18FN3O4
